US08058424B2
One Pot Synthesis of 5-Azacytidine
A mixture of 5-azacytosine (5.0 g, 44.6 mol), HMDS (6.3 mL, 29.8 mol), and TMSC1 (6 mL, 47.3 mmol) in acetonitrile (78 mL) was heated to reflux for 20 hours under an inert atmosphere. TMS-triflate (9 mL, 50 mmol) and 1,2,3,5-tetra-O-acetyl-β-D-ribofuranose (14.2 g, 44.6 mmol were added directly to the silylated 5-azacytosine in acetonitrile. The addition was performed at ambient temperature and under an inert atmosphere. The reaction mixture was maintained under stirring for 20 hours, then poured over a pre-cooled (0-5° C.) sodium bicarbonate solution (10%, 500 mL). The resulting mixture was extracted with dichloromethane (3×75 mL). The combined organic extract was washed with cooled (0-5° C.) 10% sodium bicarbonate (2×25 mL) and brine (2×25 mL), then dried over magnesium sulfate (10.0 g), filtered, and the filtrate concentrated in vacuum to dryness. The off-white foam dissolved in methanol (120 mL) was treated with a solution of 25% sodium methoxide in methanol (1.0 g, 4.62 mmol). Soon a white solid started to separate. The suspension was stirred at ambient temperature for 15 hours, then the solid was filtered off, washed with methanol (3×5 mL) and anhydrous ether (2×5 mL), then dried in vacuum. The crude 5-azacytidine (4.5 g, 41.3%) was further purified from DMSO and methanol (for details see Example 4).

reactant | 5-azacytosine | 44.6 mol, 5.0 g | N1C(=O)N=C(N)N=C1 | C3H4N4O
reactant | HMDS | 29.8 mol, 6.3 mL | C[Si](C)(C)N[Si](C)(C)C | C6H19NSi2
reactant | TMS-triflate | 50 mmol, 9 mL | [Si](C)(C)(C)OS(=O)(=O)C(F)(F)F | C4H9F3O3SSi
reactant | 1,2,3,5-tetra-O-acetyl-β-D-ribofuranose | C(C)(=O)O[C@H]1[C@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O | C13H18O9
reactant | sodium bicarbonate | 500 mL | C([O-])(O)=O.[Na+]
reactant | sodium methoxide | C[O-].[Na+]
reactant | methanol | 4.62 mmol, 1.0 g | CO | CH4O
solvent | acetonitrile | 78 mL | C(C)#N | C2H3N
product | 5-Azacytidine | [C@@H]1([C@H](O)[C@H](O)[C@@H](CO)O1)N1C(=O)N=C(N)N=C1 | C8H12N4O5
